US06790964B1
Furan (2.04 ml, 28 mmol), ethyl acrylate (2.06 ml, 20 mmol) and zinc iodide (1.92 g, 6 mmol) were placed in a sealed tube and the mixture was heated at 40° C. for 2 days. The reaction mixture was cooled to room temperature and diluted with ethyl acetate (100 ml). 10% Aqueous sodium thiosulfate solution (20 ml) was added, and the mixture was stirred at room temperature for 30 min. The organic layer was partitioned, washed with saturated brine (100 ml), and dried over anhydrous sodium sulfate. The components having a low boiling point, such as the solvent and the like, were distilled away. The obtained residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/10 (volume ratio)) to give 2-ethoxycarbonyl-7-oxabicyclo[2.2.1]hept-5-ene as a mixture of exo form:endo form=7:3 (1.75 g, 10.4 mmol, yield 52.0%).

reactant | Furan | 28 mmol, 2.04 ml | O1C=CC=C1 | C4H4O
reactant | ethyl acrylate | 20 mmol, 2.06 ml | C(C=C)(=O)OCC | C5H8O2
reactant | sodium thiosulfate | 20 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc iodide | 6 mmol, 1.92 g | [I-].[Zn+2].[I-]
product | 2-ethoxycarbonyl-7-oxabicyclo[2.2.1]hept-5-ene | yield 52.0% | C(C)OC(=O)C1C2C=CC(C1)O2 | C9H12O3
